US08461204B2
Synthesis of (4-((R)-1-carboxy-2-((2E,6E)-3,7,11-trimethyldodeca-2,6,10-trienylthio)ethylamino)-4-oxobutanoic acid) (Compound B)
To a solution of 5-trans, trans-farnesyl-L-cysteine (500 mg, 1.54 mmol) in THF and first portion of K2CO3 (2 mmol) was cooled to 5° C. with vigorous stirring. To this stirred solution was added succinic anhydride (308 mg, 3.1 mmol) drop wise while maintaining the PH at 9-10 with another portion of K2CO3 (4 mmol). The mixture was stirred at room temperature for 2 h, HPLC analysis showed completion of the reaction. The pH of the reaction mixture then adjusted to 2 by the addition of 2N HCl solution. The acidic solution was extracted three times with 10 ml of ethyl acetate. The combined organic extract was washed with water, brine and dried over sodium sulfate, the solvent was removed on rotary evaporator to afford crude product, which was further purified by preparative HPLC (535 mg, 82% yield): 1H-NMR (500 MHz, CDCl3) δ 1.59 (s, 6H), 1.66 (s, 6H), 2.05 (m, 8H), 2.60 (m, 2H), 2.48 (m, 2H), 2.86 (dd, 1H), 2.94 (dd, 1H), 3.10 (dd, 1H), 3.12 (dd, 1H), 4.68 (dd, 1H), 5.06 (m, 2H), 5.20 (t, 1H); 13C-NMR (125 MHz, CDCl3) δ 16.0, 16.1, 17.7, 25.7, 26.5, 26.7, 29.4, 29.8, 30.5, 32.6, 39.6, 39.7, 52.2, 119.3, 123.8, 124.3, 131.3, 135.4, 140.3, 173.4, 174.2, 176.8; ES-MS: mass calcd for Chemical Formula: C22H35NO5S 425.6 (M+). Found (M+Na) m/z 448.

reactant | trans-farnesyl-L-cysteine | 1.54 mmol, 500 mg | CC(=CCC/C(=C/CC/C(=C/CSC[C@@H](C(=O)O)N)/C)/C)C | C18H31NO2S
reactant | K2CO3 | 2 mmol | C(=O)([O-])[O-].[K+].[K+]
reactant | succinic anhydride | 3.1 mmol, 308 mg | C1(CCC(=O)O1)=O | C4H4O3
reactant | K2CO3 | 4 mmol | C(=O)([O-])[O-].[K+].[K+]
reactant | HCl | 2N | Cl | ClH
solvent | THF | C1CCOC1 | C4H8O
product | 4-((R)-1-carboxy-2-((2E,6E)-3,7,11-trimethyldodeca-2,6,10-trienylthio)ethylamino)-4-oxobutanoic acid | 82% yield | C(=O)(O)[C@H](CSC\C=C(\CC\C=C(\CCC=C(C)C)/C)/C)NC(CCC(=O)O)=O | C22H35NO5S
